US04892872
To a solution of 2.7 g of N-(1-benzyl-4-piperidyl)-6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxamide in 150 ml of chloroform is added portionwise 2.7 g of metachloroperbenzoic acid under cooling and stirring. After 0.5 hour, ammonia gas is bubbled through the reaction solution under stirring and the precipitate is filtered off. The mother liquor is distilled off under reduced pressure followed by recrystallizing the residue from ethanolisopropyl ether to give N-(1-benzyl-4-piperidyl)-6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxamide N-oxide.

reactant | N-(1-benzyl-4-piperidyl)-6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxamide | 2.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=CC(=CC=2N(C(C(OC21)C)=O)C)Cl | C23H26ClN3O3
reactant | metachloroperbenzoic acid | 2.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-benzyl-4-piperidyl)-6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxamide N-oxide | C(C1=CC=CC=C1)N1CCC(CC1)[NH+](C(=O)C1=CC(=CC=2N(C(C(OC21)C)=O)C)Cl)[O-] | C23H26ClN3O4
